US08431569B2
Step 1. 8-Fluoro-1-[(2,4,6-trifluorophenyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile
1-Chloro-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile (150 mg, 0.611 mmol), 2,4,6-trifluoroaniline (269 mg, 1.83 mmol), and sodium tert-butoxide (188 mg, 1.95 mmol) were placed in a reaction vessel which was placed under an argon atmosphere. DME (3.0 ml) was added. The vessel was sealed and the reaction was heated to 85° C. and stirred for 20 hrs. The resulting solution was cooled to ambient temperature, diluted with ethyl acetate and water. The aqueous layer was extracted with ethyl acetate three times. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting oil was purified by reverse phase HPLC. Desired fractions were combined, diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the title compound. LRMS (APCI) calc'd for (C18H8F4N4) [M+H]+, 357.1. found 357.0.

reactant | 1-Chloro-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.611 mmol, 150 mg | ClC1=NC=C(C=2NC=3C=CC(=CC3C21)F)C#N | C12H5ClFN3
reactant | 2,4,6-trifluoroaniline | 1.83 mmol, 269 mg | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | sodium tert-butoxide | 1.95 mmol, 188 mg | CC(C)([O-])C.[Na+]
reactant | DME | 3.0 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 8-Fluoro-1-[(2,4,6-trifluorophenyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile | FC1=CC=2C3=C(NC2C=C1)C(=CN=C3NC3=C(C=C(C=C3F)F)F)C#N | C18H8F4N4
